US08067408B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-({3′-[(3,5-dimethyl-1-piperazinyl)methyl]-6-fluoro-3-biphenylyl}methyl)-1,3-benzenedicarboxamide
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(6-fluoro-3′-formyl-3-biphenylyl)methyl]-1,3-benzenedicarboxamide (50.0 mg. 0.076 mmol) was diluted in DMSO (1.0 mL) and dispensed into a 1 dram vial containing 2,6-dimethylpiperazine (0.76 mmol), ZnCl2 (0.032 mmol, 4.2 mg), NaB(OAc)3H (0.76 mmol, 180 mg), with fitted magnetic stir bar, for 12 h. Purification was completed via a Gilson HPLC and desired product collected. The product was dissolved in dichloromethane (1 mL) and washed though 2 g of SPE-Amine in a column (EtOAc:MeOH=4:1, 5 mL) to afford 29.9 mg of the title compound (51.6%). LC-MS m/z 762 (M+H)+, 1.38 min (ret time).

reactant | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(6-fluoro-3′-formyl-3-biphenylyl)methyl]-1,3-benzenedicarboxamide | 0.076 mmol, 50.0 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC=C2)C(=O)NCC=2C=C(C(=CC2)F)C2=CC(=CC=C2)C=O)CC | C38H39FN6O4
reactant | 2,6-dimethylpiperazine | 0.76 mmol | CC1NC(CNC1)C | C6H14N2
reactant | NaB(OAc)3H | 0.76 mmol, 180 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DMSO | 1.0 mL | CS(=O)C | C2H6OS
catalyst | ZnCl2 | 0.032 mmol, 4.2 mg | [Cl-].[Cl-].[Zn+2]
product | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-({3′-[(3,5-dimethyl-1-piperazinyl)methyl]-6-fluoro-3-biphenylyl}methyl)-1,3-benzenedicarboxamide | 29.9 mg, 51.6% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC=C2)C(=O)NCC=2C=C(C(=CC2)F)C2=CC(=CC=C2)CN2CC(NC(C2)C)C)CC | C44H53FN8O3
